US04160837
12 ml of 90% strength hydrogen peroxide (0.48 mol) are dissolved in 40 ml of methylene chloride and the solution is treated at 0° with 63.5 ml (0.45 mol) of trifluoroacetic anhydride. After stirring for 15 minutes at 0°, the solution is added dropwise to a suspension, which is kept at 0°, of 196 g of anhydrous disodium hydrogen phosphate in 800 ml of methylene chloride, in which 41.8 g (0.17 mol) of N-(β,β,β-trichloroethoxycarbonyl)-3-pyrroline has been dissolved. Subsequently, the reaction mixture is stirred for 2 hours at room temperature and then stirred into 900 ml of water and the resulting mixture is stirred for a further one hour. The organic phase is separated off and the aqueous phase is extracted by shaking with 3 times 200 ml of methylene chloride; the combined organic phases are washed successively with aqueous sodium chloride solution, aqueous iron-II sulphate solution and then with water, dried over sodium sulphate and evaporated under a water pump vacuum, whereupon 3,4-epoxy-1-(β,β,β-trichloroethoxycarbonyl)-pyrrolidine is obtained in the form of white crystals with a melting point of 52°-55°.

reactant | hydrogen peroxide | 0.48 mol | OO | H2O2
reactant | trifluoroacetic anhydride | 0.45 mol, 63.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | disodium hydrogen phosphate | 196 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | N-(β,β,β-trichloroethoxycarbonyl)-3-pyrroline | 0.17 mol, 41.8 g | ClC(COC(=O)N1CC=CC1)(Cl)Cl | C7H8Cl3NO2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
solvent | water | 900 ml | O | H2O
product | 3,4-epoxy-1-(β,β,β-trichloroethoxycarbonyl)-pyrrolidine | O1C2CN(CC21)C(=O)OCC(Cl)(Cl)Cl | C7H8Cl3NO3
